US05426226
2-Di-n-propylamino-8-bromo-1,2,3,4-tetrahydronaphthalene (1.0 g; 3.22 mmol) dissolved in THF (25 ml) was cooled to -78° C., and 2.5 ml of n-butyllithium (1.27M in hexane) were added. After one hour, o-fluorobenzoyl chloride (0.38 ml, 3.22 mmol) was added. The mixture was stirred for 10 minutes at -78° C. after which the reaction was quenched by addition of water at -78° C. The reaction was made basic with NaOH and extracted three times with methylene chloride. The basic extract was dried (Na2SO4) and concentrated to give 2.0 g of crude residue. Purification of this material by flash silica gel chromatography using 1:1 ether:hexane containing a trace of ammonium hydroxide as solvent provided 2-di-n-propylamino-8-(2'-fluorobenzoyl)-1,2,3,4-tetrahydronaphthalene (340 mg).

reactant | 2-Di-n-propylamino-8-bromo-1,2,3,4-tetrahydronaphthalene | 3.22 mmol, 1.0 g | C(CC)N(C1CC2=C(C=CC=C2CC1)Br)CCC | C16H24BrN
reactant | n-butyllithium | 1.27M, 2.5 ml | C(CCC)[Li]
reactant | o-fluorobenzoyl chloride | 3.22 mmol, 0.38 ml | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 2-di-n-propylamino-8-(2'-fluorobenzoyl)-1,2,3,4-tetrahydronaphthalene | 340 mg | C(CC)N(C1CC2=C(C=CC=C2CC1)C(C1=C(C=CC=C1)F)=O)CCC | C23H28FNO
